US05455252
4-benzyl-2-bromo-aniline and 3-chloro-4-fluorobenzene boronic acid were combined to form 4-benzyl-2-(3-chloro-4-fluorophenyl)-aniline,

reactant | 4-benzyl-2-bromo-aniline | C(C1=CC=CC=C1)C1=CC(=C(N)C=C1)Br | C13H12BrN
reactant | 3-chloro-4-fluorobenzene boronic acid | ClC=1C=C(C=CC1F)B(O)O | C6H5BClFO2
product | 4-benzyl-2-(3-chloro-4-fluorophenyl)-aniline | C(C1=CC=CC=C1)C1=CC(=C(N)C=C1)C1=CC(=C(C=C1)F)Cl | C19H15ClFN
